US03944589
7 g of α-[para-(1-cyclohexenyl)-phenyl]-propionic acid chloride are added dropwise to a solution, cooled to 10°C, of 10 ml of pyridine in 25 ml of ethanol. The mixture is allowed to stand at room temperature for 3 hours, then evaporated under reduced pressure, and the residue is dissolved in ether and the ethereal solution washed with water, 2N-hydrochloric acid, saturated sodium bicarbonate solution and again with water. The ethereal extracts are dried over sodium sulfate and evaporated, then distilled in a high vacuum to yield α-[para-(1-cyclohexenyl)-phenyl]-propionic acid ethyl ester of the formula ##SPC10##

reactant | α-[para-(1-cyclohexenyl)-phenyl]-propionic acid chloride | 7 g | C1(=CCCCC1)C1=CC=C(C=C1)C(C(=O)Cl)C | C15H17ClO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | α-[para-(1-cyclohexenyl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)C1=CCCCC1)=O | C17H22O2
